US09382188B2
step 6) ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-(5-(trifluoromethyl)-1,3,4-thiadiazol-2-yl)-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)propanoate
To a solution of 2′-fluoro-5′-methoxy-2-(5-(trifluoromethyl)-1,3,4-thiadiazol-2-yl)-[1,1′-biphenyl]-4-ol (195 mg), ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate (157 mg) and tributylphosphine (213 mg) in THF (5.0 mL) was added ADDP (226 mg) at room temperature, and the mixture was stirred at room temperature for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (298 mg) as a pale-yellow oil.

reactant | 2′-fluoro-5′-methoxy-2-(5-(trifluoromethyl)-1,3,4-thiadiazol-2-yl)-[1,1′-biphenyl]-4-ol | 195 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)C=1SC(=NN1)C(F)(F)F | C16H10F4N2O2S
reactant | ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate | 157 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CO | C15H20O3
reactant | tributylphosphine | 213 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ADDP | 226 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-(5-(trifluoromethyl)-1,3,4-thiadiazol-2-yl)-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)propanoate | 298 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)C=1SC(=NN1)C(F)(F)F | C31H28F4N2O4S
